US07902252B2
6.1.e) Synthesis of ±(1aS,5aS)-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester
(E)-Ethyl 3-(3-chlorobicyclo[3.1.0]hex-2-en-2-yl)acrylate (142 mg, 0.67 mmol) was reacted with sodium azide (65 mg, 1.00 mmol) according to General Procedure 1.1.C. The product was purified by chromatography eluting with heptane-EtOAc, gradient 0 to 10% EtOAc to afford the title compound. 38 mg. 1H NMR (CHLOROFORM-d) δ: 8.67 (br. s., 1H), 6.71 (d, J=1.7 Hz, 1H), 4.28 (q, J=7.1 Hz, 2H), 2.95 (dd, J=16.6, 6.6 Hz, 1H), 2.73 (d, J=16.6 Hz, 1H), 1.87-2.07 (m, 2H), 1.34 (t, J=7.1 Hz, 3H), 1.02 (td, J=7.6, 4.7 Hz, 1H), 0.17 (q, J=4.2 Hz, 1H).

reactant | (E)-Ethyl 3-(3-chlorobicyclo[3.1.0]hex-2-en-2-yl)acrylate | 0.67 mmol, 142 mg | ClC1=C(C2CC2C1)/C=C/C(=O)OCC | C11H13ClO2
reactant | sodium azide | 1.00 mmol, 65 mg | [N-]=[N+]=[N-].[Na+]
product | (1aS,5aS)-1a,4,5,5a-tetrahydro-1H-4-aza-cyclopropa[α]pentalene-3-carboxylic acid ethyl ester | C(C)OC(=O)C=1NC=2C[C@H]3[C@@H](C2C1)C3 | C11H13NO2
